US05710171
Step 1: Preparation of 3-[(3-carbomethoxyphenyl)oxy]benzaldehyde (6)
To a solution of NaH (washed with hexane, 564 mg) in 20 mL of pyridine at 0° C. was added methyl 3-hydroxybenzoate (1.95 g), and the solution was allowed to warm to room temperature. After 5 minutes, 3-bromobenzaldehyde (1.64 mL) was added, then CuBr.SMe2 (3.15 g). The solution was heated to reflux under a stream of nitrogen. After 24 h, the reaction was cooled to room temperature and poured into ethyl acetate and water. The organic layer was washed twice with 10% aq. HCl solution, then with sat. aq. NaHCO3 solution, then with brine. The solution was dried (Na2SO4), filtered, and concentrated in vacuo to provide the crude product. Purification by silica gel chromatography (CH2 Cl2) gave the titled compound as a yellow oil.

reactant | NaH | 564 mg | [H-].[Na+]
reactant | methyl 3-hydroxybenzoate | 1.95 g | OC=1C=C(C(=O)OC)C=CC1 | C8H8O3
reactant | 3-bromobenzaldehyde | 1.64 mL | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | SMe2 | 3.15 g | S(C)C | C2H6S
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[(3-carbomethoxyphenyl)oxy]benzaldehyde | C(=O)(OC)C=1C=C(C=CC1)OC=1C=C(C=O)C=CC1 | C15H12O4
